US05703187
1-(Tert-butylamino)-2-(tetramethylcyclopentadienyl)-1,1,2,2-tetramethyldisilane
To a solution of 3,000 g (11.0 mmol) 1-chloro-2-(tetramethylcyclopentadienyl)-1,1,2,2-tetramethyldisilane in 50 mL ether was added 2.422 g (33.1 mmol) tert-butylamine. Precipitate formed rapidly. The slurry was stirred for several days at room temperature, then was gently heated to drive the reaction to completion. The solvent was removed, the residue was extracted with pentane, the amine hydrochloride was filtered and the pentane was removed under reduced pressure to give the product as a yellow oil. The yield was 3,150 (92.5%). Mass spec: m/e 309. 1H NMR (C6D6) δ 2.75 (s, 1H), 1.95 (s, 6H), 1.82 (s, 6H),1.08 (s, 9H), 0.51 (s, 1H), 0.24 (s, 6H), 0.16 (s, 6H), 13C NMR (C6D6) δ 135.2, 134.4, 55.2, 50.3, 34.1, 14.9 11.6, 3.3, -1.4.

reactant | 1-chloro-2-(tetramethylcyclopentadienyl)-1,1,2,2-tetramethyldisilane | 11.0 mmol, 3,000 g | Cl[Si]([Si](C)(C)C1C(=C(C(=C1C)C)C)C)(C)C | C13H25ClSi2
reactant | tert-butylamine | 33.1 mmol, 2.422 g | C(C)(C)(C)N | C4H11N
solvent | ether | 50 mL | CCOCC | C4H10O
product | 1-(Tert-butylamino)-2-(tetramethylcyclopentadienyl)-1,1,2,2-tetramethyldisilane | C(C)(C)(C)N[Si]([Si](C)(C)C1C(=C(C(=C1C)C)C)C)(C)C | C17H35NSi2
